US06710064B2
To a suspension of sodium hydride (60% in oil) (0.12 g) (1.5 eq.) in 5 mL of dry THF was added (2S,4R)-N-Boc-4-hydroxy-2-methyl-proline methyl ester (0.55 g) in 5 mL of dry THF. The reaction mixture was stirred for 45 min., and a solution of 4-bromobenzyl bromide (0.75 g) (1.5 eq.) in 5 mL of dry THF was added. The reaction mixture was refluxed for 3 h. After cooling to RT, the reaction mixture was diluted with water and extracted with EtOAc. The aqueous layer was acidified and extracted with DCM. The combined organic extracts were washed with water, dried over MgSO4 and evaporated under reduced pressure to afford (2S,4R)-N-Boc-4-(4-bromo-benzyloxy)-2-methyl-proline (0.25 g).

reactant | sodium hydride | 0.12 g, 1.5 eq. | [H-].[Na+]
reactant | (2S,4R)-N-Boc-4-hydroxy-2-methyl-proline methyl ester | 0.55 g | COC([C@]1(N(C[C@@H](C1)O)C(=O)OC(C)(C)C)C)=O | C12H21NO5
reactant | 4-bromobenzyl bromide | 0.75 g, 1.5 eq. | BrC1=CC=C(CBr)C=C1 | C7H6Br2
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | water | O | H2O
product | (2S,4R)-N-Boc-4-(4-bromo-benzyloxy)-2-methyl-proline | 0.25 g | C(=O)(OC(C)(C)C)N1[C@](C(=O)O)(C[C@H](C1)OCC1=CC=C(C=C1)Br)C | C18H24BrNO5
